US06660753B2
Using the procedures of Kelly et al., J. Org. Chem., (1996) 61:4623-4633, a solution of 2-bromoacetylpyridine (120 mg, 0.6 mmol) in toluene (5 mL) was treated with 3-chlorobenzamide (300 mg, 1.9 mmol) and the mixture heated in a sealed vial at reflux for 60 hours. The mixture was then cooled and the solvent was removed in vacuo. Silica gel chromatography using a gradient of hexane to ethyl acetate afforded 38 mg (9%) of 2-[3-chlorophenyl]-4-[pyridin-2-yl]-1,3-oxazole as a pale yellow solid. 1H-NMR (CDCl3), δ (ppm): 8.62 (d, 1H), 8.35 (s, 1H), 8.15 (m, 1H), 8.00 (m, 2H), 7.80 (td, 1H), 7.42 (m, 2H), 7.23 (m, 1H).

reactant | 2-bromoacetylpyridine | 0.6 mmol, 120 mg | BrCC(=O)C1=NC=CC=C1 | C7H6BrNO
reactant | 3-chlorobenzamide | 1.9 mmol, 300 mg | ClC=1C=C(C(=O)N)C=CC1 | C7H6ClNO
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 2-[3-chlorophenyl]-4-[pyridin-2-yl]-1,3-oxazole | 38 mg, 9% | ClC=1C=C(C=CC1)C=1OC=C(N1)C1=NC=CC=C1 | C14H9ClN2O
